US04232032
2,4-Bis(dichloromethylene)benzo[1,3]dioxin-6-carboxamide (3.0 g.) was added in portions to a stirred mixture of thionyl chloride (15 ml.) in dimethylformamide (60 ml.) at 50° C. A precipitate rapidly formed which, after cooling the reaction mixture to ambient temperature, was filtered off, dried, and crystallised from ethanol to give 6-cyano-2,4-bis(dichloromethylene)benzo[1,3]dioxin, m.p. 167°-168° C.

reactant | 2,4-Bis(dichloromethylene)benzo[1,3]dioxin-6-carboxamide | 3.0 g | ClC(=C1OC2=C(C(O1)=C(Cl)Cl)C=C(C=C2)C(=O)N)Cl | C11H5Cl4NO3
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 6-cyano-2,4-bis(dichloromethylene)benzo[1,3]dioxin | C(#N)C=1C=CC2=C(C(OC(O2)=C(Cl)Cl)=C(Cl)Cl)C1 | C11H3Cl4NO2
